US04772614
To a stirred solution of chloral hydrate (123.5 g) in water (1650 ml) was added a solution of anhydrous sodium sulphate (500 g) in water (640 ml) followed by sodium sulphate decahydrate (644 g). A solution of 4-methoxy-3-methylaniline (94 g) in a mixture of concentrated hydrochloric acid (59 ml) and water (400 ml) was then added, followed by a solution of hydroxylamine hydrochloride (151 g) in water (690 ml). The mixture was boiled for 5 minutes and then left at room temperatue overnight. The solid product was collected, washed with water and dried to give the novel compound, N-(4-methoxy-3-methylphenyl)-2-hydroxyiminoacetamide, m.p. 163°-165°.

reactant | chloral hydrate | 123.5 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulphate | 500 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium sulphate decahydrate | 644 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-methoxy-3-methylaniline | 94 g | COC1=C(C=C(N)C=C1)C | C8H11NO
reactant | hydrochloric acid | 59 ml | Cl | ClH
reactant | hydroxylamine hydrochloride | 151 g | Cl.NO
solvent | water | 1650 ml | O | H2O
solvent | water | 640 ml | O | H2O
solvent | water | 690 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | N-(4-methoxy-3-methylphenyl)-2-hydroxyiminoacetamide | COC1=C(C=C(C=C1)NC(C=NO)=O)C | C10H12N2O3
